US07388015B2
N4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-N1,N1-dimethyl-2-nitro-benzene-1,4-diamine [25]
HNO3 (69% aq, 24 μL, 0.36 mmol) was added dropwise to Ac2O (1 mL) at room temperature, keeping the internal temperature below 25° C. The mixture was stirred at room temperature for 15 min before cooling to −5° C. in an ice-MeOH bath. Compound N-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-N′,N′-dimethyl-benzene-1,4-diamine (50 mg, 0.15 mmol) was slurried in Ac2O (1 mL) and added dropwise to the cooled solution of acetyl nitrate. The mixture was stirred with cooling for 1 h then a further 2 h at room temperature. The mixture was poured into ice-water (20 mL) and the pH was adjusted to 7-8 by addition of saturated aq NaHCO3 solution. The mixture was extracted with EtOAc. The combined organics were washed with brine, dried on MgSO4, and filtered. The solvent was evaporated in vacuo to give a dark solid, which was purified by flash chromatography, eluted with heptane/EtOAc to afford 32 mg of the title compound as a pale reddish solid. RP-HPLC: tR=12.7 min (10-70% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>95%). 1H-NMR (DMSO-d6): δ 2.62 (s, 3H, CH3), 2.64 (s, 3H, CH3), 2.74 (s, 6H, CH3), 7.09 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 7.23 (d, 1H, J=8.8 Hz, Ph-H), 7.77 (dd, 1H, J=8.7, 2.7 Hz, Ph-H), 8.39 (d, 1H, J=2.7 Hz), 8.51 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 9.81 (br. s, 1H, NH).

reactant | HNO3 | 0.36 mmol, 24 μL | [N+](=O)(O)[O-] | HNO3
reactant | N-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-N′,N′-dimethyl-benzene-1,4-diamine | 0.15 mmol, 50 mg | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N(C)C | C17H19N5S
reactant | acetyl nitrate | [N+](=O)(OC(C)=O)[O-] | C2H3NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Ac2O | 1 mL | CC(=O)OC(=O)C | C4H6O3
solvent | Ac2O | 1 mL | CC(=O)OC(=O)C | C4H6O3
product | N4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-N1,N1-dimethyl-2-nitro-benzene-1,4-diamine | 32 mg | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=C(C=C1)N(C)C)[N+](=O)[O-] | C17H18N6O2S
